US04259469
A solution of 22.63 g (0.25 mol) of acryloyl chloride in 250 ml of methylene chloride was added over a period of 35 minutes to a mixture of 46.81 g (0.25 mol) of N-(4-hydroxyphenyl)methanesulfonamide, 25.30 g (0.25 mol) of triethylamine and 750 ml of methylene chloride at 0° C. The resultant solution was stirred at reduced temperature for 2.17 hours, washed three times with water and dried over magnesium sulfate. Concentration of the solution in vacuo gave a solid which after two recrystallizations from benzene and drying gave 13.4 g (22.2 percent yield) of N-(4-acryloyloxyphenyl)methanesulfonamide; m.p.=136.5° to 139.5° C.

reactant | acryloyl chloride | 0.25 mol, 22.63 g | C(C=C)(=O)Cl | C3H3ClO
reactant | N-(4-hydroxyphenyl)methanesulfonamide | 0.25 mol, 46.81 g | OC1=CC=C(C=C1)NS(=O)(=O)C | C7H9NO3S
reactant | triethylamine | 0.25 mol, 25.30 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 750 ml | C(Cl)Cl | CH2Cl2
product | N-(4-acryloyloxyphenyl)methanesulfonamide | 13.4 g, 22.2 percent yield | C(C=C)(=O)OC1=CC=C(C=C1)NS(=O)(=O)C | C10H11NO4S
